US04133809
2-[2-(t-butoxycarbonyl)hydrazino]-7-chloro-5-phenyl-3H-1,5-benzodiazepin-4-one
3.16 g of 2-(methylthio)-7-chloro-5-phenyl-3H-1,5-benzodiazepin-4-one and 1.41 g of t-butylcarbazate in 60 ml of dimethyl formamide are refluxed for 20 hours while a slow stream of nitrogen is bubbled through the reaction. The reaction is worked up as described in Example 29, Method A, to give the title compound.

reactant | 2-(methylthio)-7-chloro-5-phenyl-3H-1,5-benzodiazepin-4-one | 3.16 g | CSC=1CC(N(C2=C(N1)C=CC(=C2)Cl)C2=CC=CC=C2)=O | C16H13ClN2OS
reactant | t-butylcarbazate | 1.41 g | C(C)(C)(C)OC(NN)=O | C5H12N2O2
solvent | dimethyl formamide | 60 ml | CN(C=O)C | C3H7NO
product | 2-[2-(t-butoxycarbonyl)hydrazino]-7-chloro-5-phenyl-3H-1,5-benzodiazepin-4-one | C(C)(C)(C)OC(=O)NNC=1CC(N(C2=C(N1)C=CC(=C2)Cl)C2=CC=CC=C2)=O | C20H21ClN4O3
